US07977351B2
3-[1-Ethyl-6-(2-morpholin-4-yl-ethylamino)-1H-furo[3,4-c]pyridin-3-ylidene]-5-fluoro-1,3-dihydro-indol-2-one
A solution of 2-morpholin-4-yl-ethylamine (177 mg, 1.51 mmol) in 3 mL of dioxane is treated with 3-(6-Chloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one (100 mg, 0.30 mmol) in one portion. The reaction mixture is heated at 100° C. until no starting material remained. The reaction mixture is treated with water (10 mL) and heating is continued for 1 hr. The precipitate which formed is collected by filtration and washed with small amounts of water, EtOAc and ether. The solid obtained is dried under vacuum to give the title compound as a yellow solid (18 mg, 14%).

reactant | 2-morpholin-4-yl-ethylamine | 1.51 mmol, 177 mg | N1(CCOCC1)CCN | C6H14N2O
reactant | 3-(6-Chloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 0.30 mmol, 100 mg | ClC1=CC2=C(C=N1)C(OC2CC)=C2C(NC1=CC=C(C=C21)F)=O | C17H12ClFN2O2
reactant | water | 10 mL | O | H2O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 3-[1-Ethyl-6-(2-morpholin-4-yl-ethylamino)-1H-furo[3,4-c]pyridin-3-ylidene]-5-fluoro-1,3-dihydro-indol-2-one | 18 mg, 14% | C(C)C1OC(C=2C=NC(=CC21)NCCN2CCOCC2)=C2C(NC1=CC=C(C=C21)F)=O | C23H25FN4O3
